US07199135B2
N-{3-[1-(3-{[amino(diphenyl)acetyl]amino}propyl)-4-piperidinyl]-4-fluorophenyl}cyclopropane carboxamide:
Example 174 was prepared from amino(diphenyl)acetic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-fluorophenyl}cyclopropanecarboxamide according to the procedures described in Scheme 12; ESMS m/e: 529.4 (M+H)+.

reactant | amino(diphenyl)acetic acid | NC(C(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C14H13NO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-fluorophenyl}cyclopropanecarboxamide | NCCCN1CCC(CC1)C=1C=C(C=CC1F)NC(=O)C1CC1 | C18H26FN3O
product | N-{3-[1-(3-{[amino(diphenyl)acetyl]amino}propyl)-4-piperidinyl]-4-fluorophenyl}cyclopropane carboxamide | NC(C(=O)NCCCN1CCC(CC1)C=1C=C(C=CC1F)NC(=O)C1CC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H37FN4O2
